US04367238
A mixture of 3-chlorophenyl 2-methoxy-3-methylphenyl ether (14.6 g), N-bromosuccinimide (11.3 g) and 2,2'-azobisisobutyronitrile (1.1 g) in benzene (100 ml) was treated in a similar manner to that of Example 6-(3) to give oily 3-chlorophenyl 2-methoxy-3-bromomethylphenyl ether (20 g).

reactant | 3-chlorophenyl 2-methoxy-3-methylphenyl ether | 14.6 g | COC1=C(C=CC=C1C)OC1=CC(=CC=C1)Cl | C14H13ClO2
reactant | N-bromosuccinimide | 11.3 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2'-azobisisobutyronitrile | 1.1 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 3-chlorophenyl 2-methoxy-3-bromomethylphenyl ether | 20 g | COC1=C(C=CC=C1CBr)OC1=CC(=CC=C1)Cl | C14H12BrClO2
